US07629376B2
5-Cyano-1H-indole-2-carboxylic acid amide, 6 (m=0)
Treat 5-cyano-1H-indole-2-carboxylic acid ethyl ester, 3a (m=0, 1.0 g, 4.67 mmol) with 7 N NH3/MeOH as described in General Procedure IV to afford the title compound as an ivory colored solid (720 mg, 83.3%): mp>300° C.; 1H NMR (DMSO-d6) δ 12.0 (brs, 1H), 8.21 (s, 1H), 8.14 (brs, 1H), 7.51 (m, 3H), 7.25 (s, 1H); tlc (10% MeOH/CH2Cl2) Rf=0.40, m/z obs=186 (M+1).

reactant | 5-cyano-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)C#N | C12H10N2O2
reactant | NH3 MeOH | 7 N | N.CO
product | 5-Cyano-1H-indole-2-carboxylic acid amide | 720 mg, 83.3% | C(#N)C=1C=C2C=C(NC2=CC1)C(=O)N | C10H7N3O
